US04410520
A solution of 3-azido-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (11 g) in a mixture of ethanol (250 ml) and water (50 ml) was hydrogenated for 3 hours on a Parr shaker at 3 atmospheres pressure and room temperature using 10% Pd-C (0.5 g) as catalyst. 2N Hydrochloric acid (50 ml) was added, and the catalyst was filtered off. The solvent was removed at reduced pressure, and the residue dissolved in a mixture of water (50 ml) and ethanol (50 ml). Propylene oxide (25 ml) was added and the mixture was stirred for 1 hour. The solvents were removed under reduced pressure to give 3-amino-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one, m.p. >300°.

reactant | 3-azido-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 11 g | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC(=C2)OC)CC(=O)O)=O | C13H14N4O4
reactant | Hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 3-amino-1-carboxymethyl-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | NC1C(N(C2=C(CC1)C=CC(=C2)OC)CC(=O)O)=O | C13H16N2O4
